US05760032
4-(2-Chlorophenyl)-2,9-diethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (1.8 g) was added to 2.5% hydrochloric acid (35 ml), and the mixture was stirred at 60° C. overnight. Then, sodium hydrogencarbonate was added to the reaction mixture to make the mixture alkaline. Chloroform (40 ml) and 3,4-dichlorobenzoyl chloride (1.15 g) were added, and the mixture was stirred at room temperature for 2 hours. Then, the organic layer was washed with an aqueous citric acid solution and saturated brine, and dried over magnesium sulfate. After the solvent was evaporated, the residue was purified by silica gel column chromatography (developing solvent:ethyl acetate) and recrystallized from ethyl acetate to give 0.73 g of N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-ethyl[1,2,4]triazol-3-ylmethyl)-3,4-dichlorobenzamide.

reactant | 4-(2-Chlorophenyl)-2,9-diethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 1.8 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)CC | C18H17ClN4S
reactant | hydrochloric acid | 35 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3,4-dichlorobenzoyl chloride | 1.15 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | Chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-ethyl[1,2,4]triazol-3-ylmethyl)-3,4-dichlorobenzamide | 0.73 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2CC)CNC(C2=CC(=C(C=C2)Cl)Cl)=O)C=CC=C1 | C25H21Cl3N4O2S
